US07723336B2
N6-(trans-4-aminocyclohexyl)-N8-(4-(ethyloxy)phenyl)-2,3-dimethylimidazo[1,2-b]pyridazine-6,8-diamine
In a 2 dram reaction vial was added crude 6-chloro-N-(4-ethoxyphenyl)-2,3-dimethylimidazo[1,2-b]pyridazin-8-amine (0.013 g, 0.04 mmol) from 1b and trans-1,4-diaminocyclohexane (1.0 g, 8.0 mmol). The mixture was allowed to melt at 160° C. for 4 days. The melt was then cooled, diluted with water and extracted with dichloromethane. The organic layer was concentrated and then diluted with MeOH and then purified by preparative HPLC. This gave 0.005 g of the titled compound as a TFA salt. 1H NMR (500 MHz, MeOD) δ ppm 7.24 (2H, d, J=8.25 Hz), 7.00 (2H, d, J=8.80 Hz), 6.17 (1H, s), 4.05 (2H, q, J=6.96 Hz), 3.62-3.83 (1H, m), 3.02-3.21 (1H, m), 2.47 (3H, s), 2.42 (3H, s), 2.18-2.29 (2H, m, J=11.55 Hz), 2.03-2.14 (2H, m, J=12.65 Hz), 1.45-1.62 (2H, m), 1.39 (3H, t, J=6.87 Hz), 1.26-1.36 (2H, m). LC/MS, m/e 395 (M+1). HPLC Rt, 2.49 min. YMC ODSC18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 min, hold at 100% B 1 min, flow rate 4 mL/min.

reactant | 6-chloro-N-(4-ethoxyphenyl)-2,3-dimethylimidazo[1,2-b]pyridazin-8-amine | 0.04 mmol, 0.013 g | ClC=1C=C(C=2N(N1)C(=C(N2)C)C)NC2=CC=C(C=C2)OCC | C16H17ClN4O
reactant | trans-1,4-diaminocyclohexane | 8.0 mmol, 1.0 g | N[C@@H]1CC[C@H](CC1)N | C6H14N2
solvent | water | O | H2O
product | N6-(trans-4-aminocyclohexyl)-N8-(4-(ethyloxy)phenyl)-2,3-dimethylimidazo[1,2-b]pyridazine-6,8-diamine | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=C(N2)C)C)NC2=CC=C(C=C2)OCC | C22H30N6O
